US06162824
(kk) 9-(1-naphthyl)-2-phenyl-9H-fluoren-9-ol:
from 1-naphthylmagnesium chloride and 2-phenyl-9-fluorenone;

reactant | 1-naphthylmagnesium chloride | C1(=CC=CC2=CC=CC=C12)[Mg]Cl
reactant | 2-phenyl-9-fluorenone | C1(=CC=CC=C1)C1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C19H12O
product | 9-(1-naphthyl)-2-phenyl-9H-fluoren-9-ol | C1(=CC=CC2=CC=CC=C12)C1(C2=CC=CC=C2C=2C=CC(=CC12)C1=CC=CC=C1)O | C29H20O
